US07115750B1
N-[4-[2-[[2-(Dimethylamino)ethyl]amino]-2-oxoethyl]phenyl]-3-[3-(2-naphthyl)-1,2,4-oxadiazol-5-yl]propanamide
2-(4-Aminophenyl)-N-[2-(dimethylamino)ethyl]acetamide (221 mg), WSC (249 mg), 1-hydroxybenzotrizole (199 mg), triethylamine (0.4 ml), and dimethylaminopyridine (244 mg) were added to a DMF (5 ml) solution of 3-[3-(2-naphthyl)-1,2,4-oxadiazol-5-yl]propionic acid (268 mg), which was stirred for 5 hours. The reaction mixture was poured into water, and extraction was conducted using ethyl acetate. The organic layer was washed with water, saturated aqueous sodium bicarbonate solution, and saturated aqueous sodium chloride solution, dried over sodium sulfate, and then concentrated. The residue was recrystallized from methanol, to give the titled compound (166 mg).

reactant | 2-(4-Aminophenyl)-N-[2-(dimethylamino)ethyl]acetamide | 221 mg | NC1=CC=C(C=C1)CC(=O)NCCN(C)C | C12H19N3O
reactant | WSC | 249 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | dimethylaminopyridine | 244 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 3-[3-(2-naphthyl)-1,2,4-oxadiazol-5-yl]propionic acid | 268 mg | C1=C(C=CC2=CC=CC=C12)C1=NOC(=N1)CCC(=O)O | C15H12N2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
product | N-[4-[2-[[2-(Dimethylamino)ethyl]amino]-2-oxoethyl]phenyl]-3-[3-(2-naphthyl)-1,2,4-oxadiazol-5-yl]propanamide | 166 mg | CN(CCNC(CC1=CC=C(C=C1)NC(CCC1=NC(=NO1)C1=CC2=CC=CC=C2C=C1)=O)=O)C | C27H29N5O3
